US07642264B2
2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 6-methyl-4-(4-trifluoromethyl-phenyl)-1H-pyrimidin-2-one (5.1 g, 20.0 mmol) and phosphoryl chloride (10 mL) according to step 3 of the general procedure I. Obtained as a light brown solid (4.1 g, 75%). MS (ISP) 273.1 [(M+H)+]; mp 82-83° C.

reactant | 6-methyl-4-(4-trifluoromethyl-phenyl)-1H-pyrimidin-2-one | 20.0 mmol, 5.1 g | CC1=CC(=NC(N1)=O)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O
reactant | phosphoryl chloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | ClC1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
